US08492387B2
Thionyl Chloride (0.95 mL, 13.0 mmol) was added to a room temperature solution of indane-1-carboxylic acid dissolved in 20 mL of dichloromethane. The reaction mixture was stirred at room temperature for 35 minutes after which time the volume was reduced by approximately 50% via a rotovap. Then 20 mL of methanol was added and the reaction was stirred at room temperature for 3 hours. Evaporation of the solvent and column chromatography (9/1 hexanes/EtOAc) afforded of methyl indane-1-carboxylate (2.2 g, 100%) as a colorless oil.

reactant | Thionyl Chloride | 13.0 mmol, 0.95 mL | S(=O)(Cl)Cl | Cl2OS
reactant | indane-1-carboxylic acid | C1(CCC2=CC=CC=C12)C(=O)O | C10H10O2
reactant | methanol | 20 mL | CO | CH4O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | methyl indane-1-carboxylate | 2.2 g, 100% | C1(CCC2=CC=CC=C12)C(=O)OC | C11H12O2
